US09399637B2
Step 9) tert-butyl 8-((2-((2,3-dimethyl-2H-indazol-6-yl)amino)pyrimidin-4-yl)(methyl)amino)-2-azaspiro[4.5]decane-2-carboxylate
To a suspension of tert-butyl 8-((2-chloropyrimidin-4-yl)(methyl)amino)-2-azaspiro[4.5]decane-2-carboxylate (500.0 mg, 1.3 mmol) and 2,3-dimethyl-2H-indazol-6-amine hydrochloride (778.6 mg, 3.9 mmol) in n-BuOH (10 mL) was added DIPEA (1.04 g, 8.0 mmol). The reaction mixture was stirred at 150° C. in a sealed tube overnight, then cooled down to rt, and concentrated in vacuo. The residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/10) to give the title compound as a yellow solid (657 mg, 100%).

reactant | tert-butyl 8-((2-chloropyrimidin-4-yl)(methyl)amino)-2-azaspiro[4.5]decane-2-carboxylate | 1.3 mmol, 500.0 mg | ClC1=NC=CC(=N1)N(C1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1)C | C19H29ClN4O2
reactant | 2,3-dimethyl-2H-indazol-6-amine hydrochloride | 3.9 mmol, 778.6 mg | Cl.CN1N=C2C=C(C=CC2=C1C)N
reactant | DIPEA | 8.0 mmol, 1.04 g | CCN(C(C)C)C(C)C | C8H19N
solvent | n-BuOH | 10 mL | CCCCO | C4H10O
product | tert-butyl 8-((2-((2,3-dimethyl-2H-indazol-6-yl)amino)pyrimidin-4-yl)(methyl)amino)-2-azaspiro[4.5]decane-2-carboxylate | 657 mg, 100% | CN1N=C2C=C(C=CC2=C1C)NC1=NC=CC(=N1)N(C1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1)C | C28H39N7O2
